US07842638B2
1.2—Preparation of N,N-bis(1H-benzimidazol-2-ylmethyl)-N-allylamine
A mixture of 7.3 g (32.0 mmol) diethyl N-allyliminodiacetate and 6.9 g (64 mmol) o-phenylene diamine was stirred at 190° C. for 4 hour and the formed volatile materials were distilled off. The reaction mixture was then left to cool down to room temperature and acetone (100 ml) was added. The mixture was sonicated for 10 minutes, the formed residue filtered, washed with 2×5 ml acetone and dried under vacuum. Yield—4.5 g (44.0%). 1H NMR (250 MHz, CDCl3□, ppm: 3.22 (d, 2H), 3.95 (m, 4H), 5.20 (m, 2H), 5.90 (m, 1H), 7.15 (m, 4H), 7.53 (m, 4H), 12.11 (br.s 2H).

reactant | diethyl N-allyliminodiacetate | 32.0 mmol, 7.3 g | C(C=C)N(CC(=O)OCC)CC(=O)OCC | C11H19NO4
reactant | o-phenylene diamine | 64 mmol, 6.9 g | C1(=C(C=CC=C1)N)N | C6H8N2
product | N,N-bis(1H-benzimidazol-2-ylmethyl)-N-allylamine | N1C(=NC2=C1C=CC=C2)CN(CC=C)CC2=NC1=C(N2)C=CC=C1 | C19H19N5
